US09107916B2
B. 2-[5-[(2-butan-2-yloxy-4-chlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2-butan-2-yloxy-4-chlorophenyl)methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C20H19ClN4O2, 383. Found, 383.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2-butan-2-yloxy-4-chlorophenyl)methanol | CC(CC)OC1=C(C=CC(=C1)Cl)CO | C11H15ClO2
product | 2-[5-[(2-butan-2-yloxy-4-chlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | CC(CC)OC1=C(C=CC(=C1)Cl)COC1=CC=NN1C1=NC=CC(=C1)C#N | C20H19ClN4O2
